US08703797B2
2-Hydrazinyl-4-isopropyl-1,8-naphthyridine:
A solution of chloro-4-isopropyl-1,8-naphthyridine (690 mg, 3.4 mmol) in NH2NH2 was reacted as outlined in Scheme 1 above to give the desired title compound (620 mg, 92%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.35 (d, J=6.74 Hz, 6 H) 3.45-3.59 (m, 1 H) 6.70 (br. s., 1 H) 7.21 (dd, J=8.06, 4.54 Hz, 1 H) 8.19 (d, J=7.62 Hz, 1H) 8.79 (br. s., 1 H).

reactant | chloro-4-isopropyl-1,8-naphthyridine | 3.4 mmol, 690 mg | ClC1=NC2=NC=CC=C2C(=C1)C(C)C | C11H11ClN2
reactant | NH2NH2 | NN | H4N2
product | 2-Hydrazinyl-4-isopropyl-1,8-naphthyridine | 620 mg, 92% | N(N)C1=NC2=NC=CC=C2C(=C1)C(C)C | C11H14N4
